US05212310
A mixture of 3-Amino-2-chloro-pyridine (5 g) and cuprous cyanide (5 g) in 10 mL of N-Methylpyrrolidone was heated with stirring at 185° C. for 2 h under an atmosphere of nitrogen. The reaction mixture was concentrated in vacuo and concentrated ammonium hydroxide and 10% methanol/methylene chloride were added. The mixture was shaken and filtered, the organic layer separated and the aqueous layer extracted two times with methanol/methylene chloride. The combined organic extracts were dried over magnesium sulfate and the solvent removed in vacuo. The residue was recrystallized from ethyl acetate/hexane to afford 3-Amino-2-cyanopyridine as a tan solid

reactant | 3-Amino-2-chloro-pyridine | 5 g | NC=1C(=NC=CC1)Cl | C5H5ClN2
reactant | N-Methylpyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
product | 3-Amino-2-cyanopyridine | NC=1C(=NC=CC1)C#N | C6H5N3
